US06492416B1
To a stirred suspension of celite (20 g) and 4-ethyl-1-{4-(methylthio)phenyl}-2-hexyn-1,4-diol (11 g) in 300 ml dichloromethane, was added 25 g of pyridinium dichromate at 0° C. Then the reaction mixture was stirred for 12 hours at room temperature. The insoluble and metallic substances were removed by filtration through Florisil. The filtrate was extracted with dilute aqueous HCl and dichloromethane (150 ml×3). The organic layer was then washed with brine and dried over anhydrous magnesium sulfate. The organic layer was concentrated in vacuo and the resulting crude product was recrystallized from 5:1 hexane and ethylacetate to yield 7.8 g of 4-ethyl-4-hydroxy-1-{4-(methylthio)phenyl}-2-hexyn-1-one as a low-melting solid. mp: 49-50° C. NMR: δ1.12 (t, J=7.5 Hz, 6H), 1.83 (q, J=7.5 Hz, 4H), 2.15 (br s, 1H), 2.54 (s, 3H), 7.28 (d, J=8.7 Hz, 2H), 8.02 (d, J=8.7 Hz, 2H). IR (cm−1): 3432, 2970, 2208, 1636, 1588, 1285, 1095.

reactant | 4-ethyl-1-{4-(methylthio)phenyl}-2-hexyn-1,4-diol | 11 g | C(C)C(C#CC(O)C1=CC=C(C=C1)SC)(CC)O | C15H20O2S
reactant | pyridinium dichromate | 25 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 4-ethyl-4-hydroxy-1-{4-(methylthio)phenyl}-2-hexyn-1-one | 7.8 g | C(C)C(C#CC(=O)C1=CC=C(C=C1)SC)(CC)O | C15H18O2S
